US05783522
4-[2-Chloro-5-(3-chloro-5-trifluoromethyl-2-pyridinyl)phenylaminosulfonyl]-3,5-dimethylisoxazole (Table 1, Example I.176)
A solution of 2.5 g of 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine and 2.3 g of 3,5-dimethylisoxazole-4-sulfonyl chloride in a mixture of 100 ml of toluene and 100 ml of pyridine was refluxed for 16 hours. The mixture was concentrated and the residue was taken up in 50 ml of ethyl acetate. The solution was washed with 50 ml each of 10% strength hydrochloric acid and 10% strength aqueous sodium bicarbonate solution and was dried over sodium sulfate and concentrated. Chromatography on silica gel with cyclohexane/ethyl acetate (6:1) resulted in 1.9 g of colorless crystals; melting point: 161°-162° C.

reactant | 2-(3-amino-4-chlorophenyl)-3-chloro-5-trifluoromethylpyridine | 2.5 g | NC=1C=C(C=CC1Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C12H7Cl2F3N2
reactant | 3,5-dimethylisoxazole-4-sulfonyl chloride | 2.3 g | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-[2-Chloro-5-(3-chloro-5-trifluoromethyl-2-pyridinyl)phenylaminosulfonyl]-3,5-dimethylisoxazole | 1.9 g | ClC1=C(C=C(C=C1)C1=NC=C(C=C1Cl)C(F)(F)F)NS(=O)(=O)C=1C(=NOC1C)C | C17H12Cl2F3N3O3S
